US07557138B2
4-(4-Phenoxybutoxy)-7H-furo[3,2-g][1]benzopyran-7-on
700 mg (3.462 mmol) of 5-hydroxypsoralen (crystallized) and 600 mg (3.462 mmol) of 4-phenoxybutyl bromide was refluxed in 30 ml of 2-butanone in the presence of an excess (2 g) of anhydrous potassium carbonate and catalytic amounts of potassium iodide for 24 hours. The progress of the reaction was monitored by thin layer chromatography. After 24 hours the reaction mixture was concentrated under reduced pressure. The oily residue was cooled and diluted with water. The aqueous solution was then acidified with concentrated hydrochloric acid to pH 1. The slurry was stirred for 15-20 min and extracted with 3×100 ml of dichloromethane. The dichloromethane layer was extracted with 25 ml of 1% sodium hydroxide to separate the un-reacted 5-hydroxypsoralen. The dichloromethane layer was washed with 30 ml of 2% hydrochloric acid, dried over anhydrous sodium sulfate and concentrated. The solid residue was dissolved in a methanol-acetone mixture, treated with charcoal and re-crystallized from a methanol-acetone (80:20) mixture.

reactant | 5-hydroxypsoralen | 3.462 mmol, 700 mg | C1=COC=2C1=C(C3=C(C2)OC(=O)C=C3)O | C11H6O4
reactant | 4-phenoxybutyl bromide | 3.462 mmol, 600 mg | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | 2-butanone | 30 ml | CC(CC)=O | C4H8O
product | 4-(4-Phenoxybutoxy)-7H-furo[3,2-g][1]benzopyran-7-on | O(C1=CC=CC=C1)CCCCOC1=C2C(=CC3=C1C=CC(O3)=O)OC=C2 | C21H18O5
